US07531553B2
Preparation I: 4-(3,4-Dinitrophenoxy)-pyridine.
4-Chloropyridine (3.20 g, 28.2 mmol) and 3,4-dinitrophenol (5.96 g, 32.4 mmol) were combined in an open round-bottom flask fitted with running water condenser. The reaction flask was heated to 145° C. After 45 min, 4N HCl/dioxane (2.1 mL) was added. The reaction was heated for an additional 25 min then cooled to RT. The mix was dissolved in EtOAc and 0.5 N HCl/water. The aqueous layer was basified with 6 N NaOH. A beige solid was isolated and identified as title compound.

reactant | 4-Chloropyridine | 28.2 mmol, 3.20 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | 3,4-dinitrophenol | 32.4 mmol, 5.96 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])O | C6H4N2O5
reactant | HCl dioxane | 4N, 2.1 mL | Cl.O1CCOCC1
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl water | 0.5 N | Cl.O
product | 4-(3,4-Dinitrophenoxy)-pyridine | [N+](=O)([O-])C=1C=C(OC2=CC=NC=C2)C=CC1[N+](=O)[O-] | C11H7N3O5
